US04219657
(A) 3-(4-methylphenylthio)-4-ketocyclohexanecarboxylic acid ethyl ester
In a 2 l. three-necked flask provided with a condenser, nitrogen inlet, dropping funnel and stirrer were placed 73.5 g. of p-toluenethiol and a solution of 33 g. of 85% potassium hydroxide in 500 ml. of ethanol. The solution was brought to reflux, and a solution of 146.4 g. of 3-bromo-4-ketocyclohexanecarboxylic acid ethyl ester in 500 ml. of ethanol was added over a period of one hour. After the addition, the solution was stirred at reflux for one hour. After removal of the ethanol in vacuo on the steam bath, 300 ml. of water was added, and the product was extracted three times with 200 ml. of ether. The ether solution was dried over anhydrous magnesium sulfate, and then the solvent was removed on the steam bath. The residue was crystallized from heptane; yield 66 g. of 3-(4-methylphenylthio)-4-ketocyclohexanecarboxylic acid ethyl ester, m.p. 87°-89°.

reactant | p-toluenethiol | C1(=CC=C(C=C1)S)C | C7H8S
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-bromo-4-ketocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)Br | C9H13BrO3
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-methylphenylthio)-4-ketocyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)=O)SC1=CC=C(C=C1)C | C16H20O3S
